US06492362B1
A solution of (R)-2-tert-butoxycarbonylamino-3-((R)-2-tert-butoxycarbonylamino-2-carboxy-ethyldisulfanyl)-propionic acid (i.e., Boc-L-Cystine) (25 g, 56.75 mmol) in DMF (250 mL) was treated with tris(carboxyethyl)phosphine hydrochloride (17.9 g, 62.4 mmol). A solution of KOH (31.8 g, 567 mmol) in water (100 mL) was added over 2 minutes and the exothermic reaction was cooled with a 20° C. water bath. The mixture was stirred for 2 hours at room temperature, diluted with 2-(difluoromethoxy)benzyl bromide and stirred for 2 hours. The mixture was acidified with 1N HCl and extracted with ethyl acetate (3×250 mL). The combined organic layers were washed with brine, dried (MgSO4)and concentrated. The residue was dried under high vacuum and then dissolved in CH2Cl2 (80 mL). The solution was diluted with trifluoroacetic acid (80 mL) and the mixture was stirred at room temperature for 2.5 hours. All volatile components were removed under vacuum and the residue was dissolved in water (200 mL). The solution was adjusted to pH 6 to 7 with 1N NaOH to give a precipitate, which was collected by filtration, washed with water and dried under vacuum to yield (R)-2-amino-3-[2-(1,1-difluoro-methoxy)-benzylsulfanyl]-propionic acid as white solid (27.5 g).

reactant | (R)-2-tert-butoxycarbonylamino-3-((R)-2-tert-butoxycarbonylamino-2-carboxy-ethyldisulfanyl)-propionic acid | 56.75 mmol, 25 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CSSC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C16H28N2O8S2
reactant | tris(carboxyethyl)phosphine hydrochloride | 62.4 mmol, 17.9 g | Cl.C(=O)(O)CCP(CCC(=O)O)CCC(=O)O
reactant | KOH | 567 mmol, 31.8 g | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
reactant | 2-(difluoromethoxy)benzyl bromide | FC(OC1=C(CBr)C=CC=C1)F | C8H7BrF2O
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | (R)-2-amino-3-[2-(1,1-difluoro-methoxy)-benzylsulfanyl]-propionic acid | 27.5 g | N[C@H](C(=O)O)CSCC1=C(C=CC=C1)OC(F)F | C11H13F2NO3S
